US07820654B2
Step (i). Synthesis of 3-(3-chloro-4-methoxy-phenyl)-1-phenyl-prop-2-yn-1-ol
To a stirring mixture of 3-chloro-4-methoxyiodobenzene (0.3 g, 1.1 mmol), (PPh3)2PdCl2 (31 mg, 0.044 mmol), triethylamine (1.2 mL, 8.9 mmol) in dimethylformamide (3 mL) was added to phenylethynylcarbinol (0.29 g, 2.2 mmol) at temperature in the range of 20-40° C. under nitrogen atmosphere. The mixture was then stirred at 80° C. for 12 hours. After cooling the mixture to temperature in the range of 20-40° C. it was diluted with water (15 mL) and extracted with ethyl acetate (3×25 mL). The organic layers were collected, combined, washed with water (2×5 mL), dried over anhydrous sodium sulphate, and concentrated to give the desired compound.

reactant | 3-chloro-4-methoxyiodobenzene | 1.1 mmol, 0.3 g | ClC=1C=C(C=CC1OC)I | C7H6ClIO
reactant | triethylamine | 8.9 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | phenylethynylcarbinol | 2.2 mmol, 0.29 g | C1(=CC=CC=C1)C#CCO | C9H8O
reactant | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | water | 15 mL | O | H2O
catalyst | (PPh3)2PdCl2 | 0.044 mmol, 31 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(3-chloro-4-methoxy-phenyl)-1-phenyl-prop-2-yn-1-ol | ClC=1C=C(C=CC1OC)C#CC(O)C1=CC=CC=C1 | C16H13ClO2
